US09119396B2
A mixture of 5.0 g of 2-fluoro-5-(trifluoromethyl)benzaldehyde, 3.3 g of methyl thioglycolate, 4.0 g of potassium carbonate and 50 ml of DMF was stirred at 60° C. for 2 hours, and then the reaction mixture was cooled to room temperature. To the reaction mixture was added water, and extracted with tert-butyl methyl ether 3 times. The combined organic layer was washed with water, followed by saturated aqueous sodium chloride solution. The mixture was dried over magnesium sulfate, and then concentrated under reduced pressure. The residue was recrystallized from methanol to obtain 6.3 g of methyl 5-(trifluoromethyl)benzo[b]thiophene-2-carboxylate (the present compound 1).

reactant | 2-fluoro-5-(trifluoromethyl)benzaldehyde | 5.0 g | FC1=C(C=O)C=C(C=C1)C(F)(F)F | C8H4F4O
reactant | methyl thioglycolate | 3.3 g | C(CS)(=O)OC | C3H6O2S
reactant | potassium carbonate | 4.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | methyl 5-(trifluoromethyl)benzo[b]thiophene-2-carboxylate | 6.3 g | FC(C1=CC2=C(SC(=C2)C(=O)OC)C=C1)(F)F | C11H7F3O2S
